US04468405
N-(((3,5-Dichloro-4-(2,2-dichloro-1,1-difluoroethoxy)phenyl)amino)carbonyl)-2,6-difluoro-N-methylbenzamide
N-(((3,5-Dichloro-4-(2,2-dichloro-1,1-difluoroethoxy)phenyl)amino)carbonyl)-2,6-difluorobenzamide (9.9 g, 0.02 mole) and KOH (1.4 g, 87 percent purity, 0.02 mole) were added to 50 ml dimethylformamide with stirring, giving a clear solution. Iodomethane (3.2 g, 0.022 mole) was added and the resulting solution was stirred at room temperature for about 24 hours. The precipitated product was collected by suction filtration and dried. The product was purified by recrystallization from isopropanol. The purified product was a white solid melting at 153°-155° C. NMR spectral features support the structural assignment.

reactant | N-(((3,5-Dichloro-4-(2,2-dichloro-1,1-difluoroethoxy)phenyl)amino)carbonyl)-2,6-difluorobenzamide | 0.02 mole, 9.9 g | ClC=1C=C(C=C(C1OC(C(Cl)Cl)(F)F)Cl)NC(=O)NC(C1=C(C=CC=C1F)F)=O | C16H8Cl4F4N2O3
reactant | KOH | 0.02 mole, 1.4 g | [OH-].[K+]
reactant | Iodomethane | 0.022 mole, 3.2 g | IC | CH3I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(((3,5-Dichloro-4-(2,2-dichloro-1,1-difluoroethoxy)phenyl)amino)carbonyl)-2,6-difluoro-N-methylbenzamide | ClC=1C=C(C=C(C1OC(C(Cl)Cl)(F)F)Cl)NC(=O)N(C(C1=C(C=CC=C1F)F)=O)C | C17H10Cl4F4N2O3
